US07842713B2
Preparation of Intermediate 332b: Ethyl 7-(Acetyloxy)-1-benzofuran-5-carboxylate
Sodium acetate (10 g, 120 mmol) was added under vigorous stirring to a solution of 3-(ethoxycarbonyl)-4-(furan-3-yl)but-3-enoic acid (12.3 g, 48 mmol) in 100 mL of acetic anhydride. The reaction mixture was refluxed for 3 h and evaporated in vacuum (˜20 mmHg) at 70° C. until the solvent distillation ceased. The obtained crude product was suspended in 250 mL of dichloromethane. The suspension was filtered. The precipitate was washed by 100 mL of dichloromethane. The combined solutions were washed by 200 mL of a saturated aqueous solution of NaHCO3 and evaporated in vacuum to dryness. The obtained crude product was chromatographed on a layer of silica gel (150×100 mm) with hexane/ethyl acetate mixture (3:1) to give the desired product 5.2 g (29 mmol, 61%) as a yellow solid.

reactant | Sodium acetate | 120 mmol, 10 g | C(C)(=O)[O-].[Na+]
reactant | 3-(ethoxycarbonyl)-4-(furan-3-yl)but-3-enoic acid | 48 mmol, 12.3 g | C(C)OC(=O)C(CC(=O)O)=CC1=COC=C1 | C11H12O5
solvent | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | Ethyl 7-(Acetyloxy)-1-benzofuran-5-carboxylate | 29 mmol, 5.2 g, 61% | C(C)(=O)OC1=CC(=CC=2C=COC21)C(=O)OCC | C13H12O5
